US07157490B2
Step A: 5-Hydroxypyrazolo[1,5-a]pyrimidine
To a stirred solution of 3-aminopyrazole (11.5 g, 0.138 mol) in 65 mL of 1,4-dioxane was added ethyl propiolate (14.7 g, 15.2 mL, 0.150 mol) dropwise, and the resultant light yellow solution was warmed to reflux. After 4 h, the blood-red solution was cooled to room temperature and 100 mL of toluene was added with stirring. The resultant precipitate was collected with toluene and air-dried to afford the title compound as a tan solid. MS 136.0 (M+1)

reactant | 3-aminopyrazole | 0.138 mol, 11.5 g | NC1=NNC=C1 | C3H5N3
reactant | ethyl propiolate | 0.150 mol, 15.2 mL, 14.7 g | C(C#C)(=O)OCC | C5H6O2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 65 mL | O1CCOCC1 | C4H8O2
product | 5-Hydroxypyrazolo[1,5-a]pyrimidine | OC1=NC=2N(C=C1)N=CC2 | C6H5N3O
